US08372840B2
i) (4-Chloro-benzyl)-(3-methoxy-phenyl)-amine
4-Chlorobenzaldehyde (3.41 g, 27.5 mmol) was added to a cooled stirred solution of 3-methoxy aniline (3.38 g, 27.5 mmol) in anhydrous dichloromethane (120 ml). Sodium triacetoxy borohydride (8.16 g, 38.5 mmol) and acetic acid (1.57 ml, 27.5 mmol) were added and the reaction stirred under nitrogen at room temperature overnight. The reaction was quenched by the addition of 2 N sodium hydroxide (aq) and the resulting solution was extracted with dichloromethane (3×100 ml). The organic extracts were combined, washed with water (100 ml), brine (100 ml) and then concentrated in vacuo to obtain crude product. The residues were purified by flash chromatography (SiO2) eluting with petrol/dichloromethane 3:1 to afford the title compound (4.4 g, 64% yield). HPLC retention time 8.4 min Mass spectrum (ES+) m/z 248 (M+H).

reactant | 4-Chlorobenzaldehyde | 27.5 mmol, 3.41 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 3-methoxy aniline | 27.5 mmol, 3.38 g | COC=1C=C(N)C=CC1 | C7H9NO
reactant | Sodium triacetoxy borohydride | 38.5 mmol, 8.16 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 27.5 mmol, 1.57 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | (4-Chloro-benzyl)-(3-methoxy-phenyl)-amine | 4.4 g, 64% yield | ClC1=CC=C(CNC2=CC(=CC=C2)OC)C=C1 | C14H14ClNO
